US04871748
A solution of 1-(3,5-bistrifluoromethylphenyl)-3-[4-(1,1-dimethyl-2-hydroxyethyl)piperidino]-prop-1-yne (2.0 g) in dry diethyl ether (20 ml) containing a few drops of ethanol, was brought to pH 1 with an ethereal solution of hydrogen chloride gas. The resulting solution was diluted to 40 ml with petroleum ether (b.p. 60°-80° C.), a buff solid was filtered off, washed with a 1:1 solution of diethyl ether and petroleum ether (25 ml), and dried to give 1-(3,5-bistrifluoromethylphenyl)-3-[4-(1,1-dimethyl-2-hydroxyethyl)piperidino]-prop-1yne hydrochloride (2.1 g) m.p 183°-185° C. as buff crystals.

reactant | 1-(3,5-bistrifluoromethylphenyl)-3-[4-(1,1-dimethyl-2-hydroxyethyl)piperidino]-prop-1-yne | 2.0 g | FC(C=1C=C(C=C(C1)C(F)(F)F)C#CCN1CCC(CC1)C(CO)(C)C)(F)F | C20H23F6NO
reactant | hydrogen chloride | Cl | ClH
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
catalyst | ethanol | a few drops | C(C)O | C2H6O
product | 1-(3,5-bistrifluoromethylphenyl)-3-[4-(1,1-dimethyl-2-hydroxyethyl)piperidino]-prop-1yne hydrochloride | 2.1 g | Cl.FC(C=1C=C(C=C(C1)C(F)(F)F)C#CCN1CCC(CC1)C(CO)(C)C)(F)F | InChI=1S/C20H23F6NO.ClH/c1-18(2,13-28)15-5-8-27(9-6-15)7-3-4-14-10-16(19(21,22)23)12-17(11-14)20(24,25)26;/h10-12,15,28H,5-9,13H2,1-2H3;1H
